US07294633B2
b) 4-(benzyloxycarbonyl-chloro-acetyl)-benzoic acid methylester
4.0 g (12.8 mmols) of 4-benzyloxycarbonylacetyl-benzoic acid methylester, dissolved in 40 ml of toluene, are mixed with 19.2 ml of a 1 M solution of SO2Cl2 in CH2Cl2 and stirred for 30 min at RT. At 0° C., water is added and the aqueous phase is separated and extracted twice with EtOAc. The organic phases are washed twice with sat. NaHCO3 solution, H2O and brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2; hexane/EtOAc 9:1→4:1; crude product dissolved in CH2Cl2) yielded the title compound as an oil: MS: [M+1]+=347; TLC(hexane/EtOAc 4:1) Rf=0.19.

reactant | 4-benzyloxycarbonylacetyl-benzoic acid methylester | 12.8 mmols, 4.0 g | COC(C1=CC=C(C=C1)C(CC(=O)OCC1=CC=CC=C1)=O)=O | C18H16O5
reactant | water | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(benzyloxycarbonyl-chloro-acetyl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C(C(Cl)C(=O)OCC1=CC=CC=C1)=O)=O | C18H15ClO5
